US04120969
4-Hydroxymethyl-1-methyl-3,3-diphenyl-2-pyrrolidinone
Forty grams (0.153 mole) of α,α-diphenyl-α-(1-methyl-3-azetidinyl)acetonitrile was heated in 150 g. of 70% sulfuric acid solution for 48 hrs. at 130° C. The reaction mixture was poured onto ice and made basic with a 50% sodium hydroxide solution while cooling with the addition of more ice. This mixture was extracted with chloroform, combined extracts dried, filtered, and concentrated in vacuo. The residue was crystallized from toluene, weighed 34.5 g. and melted at 148°-150° C. Ten grams was recrystallized twice with toluene, weighed 7.5 g., and melted at 149°-151° C.

reactant | α,α-diphenyl-α-(1-methyl-3-azetidinyl)acetonitrile | 0.153 mole, Forty grams | C1(=CC=CC=C1)C(C#N)(C1CN(C1)C)C1=CC=CC=C1 | C18H18N2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-Hydroxymethyl-1-methyl-3,3-diphenyl-2-pyrrolidinone | OCC1C(C(N(C1)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H19NO2
